Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15],-1.9064869281
[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[O:1],4.070390487180002
[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[O:9][C:10][O:11][H:12].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][O:11][H:12],-1.6169005579799998
[H:5].[O:1]=[C:2]([C:3](=[C:4])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.94293352301
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.02426451737
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:3],3.8866197813
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([O:9])([H:10])[H:11]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:10])[H:11].[O:9],4.0704350232
[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:4](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:5],2.9755481123000003
[H:6].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:7](\[H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-3.97941050342
[H:1][C:2][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-3.76877835271
[C:3][C:4]([H:5])([H:6])[H:7].[H:1][C:2]=[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.77576398666
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[O:5][H:6],2.9357519198000004
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11]>>[C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11].[O:1],6.095355673099999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],4.84913269801
[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-5.12914509125
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:5],4.88492145781
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[O:8][O:9][H:10]>>[C:3]([H:4])#[C:5][O:8][O:9][H:10].[H:1][C:2]#[C:6][H:7],-0.617996592472
[C:1]#[C:2][C:3]([O:4][H:5])[O:6][C:7][H:8]>>[C:1]#[C:2].[C:3]([O:4][H:5])[O:6][C:7][H:8],6.2704111086
[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11],1.66225001325
[H:10].[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.864896205980002
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7][C:9]([H:10])[H:11].[H:8]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11],-3.11674286205
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[C:10]=[C:11]([H:12])[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][H:9],6.784279188119999
[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])[H:7].[C:8]([H:9])([H:10])[H:11],2.09159879688
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])=[C:5][H:6].[O:7]=[C:8]=[C:9]([H:10])[H:11],0.270355501391
[H:1][C:2]#[C:3][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-1.94815853581
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.56548831071
[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:10]([H:11])([H:12])[H:13],6.6825516818400015
